US05674856
3(a) 5'-O-Benzhydrylthymidine
350 mg (8 mmol) of sodium hydride (as a 55% w/w dispersion in mineral oil) were added to a solution of 1.426 g (4 mmol) of 3'-O-[(1,1-dimethylethyl)dimethylsilyl]thymidine [Can. J. Chem., 56, 2768 (1978)] in 8 ml of tetrahydrofuran under an atmosphere of argon, and the resulting mixture was stirred at 60° C. for 2 hours and then allowed to cool to room temperature. A solution of 988 mg (4 mmol) of benzyl bromide in 2 ml of tetrahydrofuran was then added dropwise to the mixture, followed by 300 mg (2 mmol) of sodium iodide. The reaction mixture was then stirred at room temperature for 17 hours, after which it was freed from the solvent by distillation under reduced pressure. The concentrate was dissolved in 50 ml of ethyl acetate, and the resulting solution was washed twice each time with 50 ml of a saturated aqueous solution of sodium chloride. It was then dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was dissolved in 4 ml of tetrahydrofuran, and 4 ml of a 1M tetrahydrofuran solution of tetrabutylammonium fluoride were added to the solution. The resulting mixture was then stirred at room temperature for 2 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was dissolved in 50 ml of ethyl acetate. The resulting solution was washed twice, each time with 50 ml of a saturated aqueous solution of sodium chloride. The mixture was dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through 60 g of silica gel (230-400 mesh) using a gradient elution method, with methylene chloride containing from 1 to 2.5% by volume methanol as the eluent, to give 377.7 mg (yield 23%) of the title compound.

reactant | sodium hydride | 8 mmol, 350 mg | [H-].[Na+]
reactant | 3'-O-[(1,1-dimethylethyl)dimethylsilyl]thymidine | 4 mmol, 1.426 g | CC(C)(C)[Si](O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)(C)C | C16H28N2O5Si
reactant | benzyl bromide | 4 mmol, 988 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium iodide | 2 mmol, 300 mg | [I-].[Na+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5'-O-Benzhydrylthymidine | 377.7 mg, yield 23% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C23H24N2O5
